US04425282
71 g (0.5 mol) of 3,3-dimethyl-4-pentenoic acid methyl ester were added dropwise to a mixture of 87.5 g (0.5 mol) of p-chlorobenzoyl chloride and 130.3 g (0.5 mol) of tin tetrachloride at 20° C., while cooling with ice. After being left to stand overnight, the reaction mixture had solidified. It was taken up in methylene chloride, the methylene chloride mixture was filtered and the filtrate was extracted by shaking with dilute hydrochloric acid. After drying and stripping off the solvent in vacuo, 111.1 g of crude product (about 83%), which crystallized completely, were obtained. Recrystallization from 120 ml of ethanol gave 3,3-dimethyl-4-(4'-chloro-phenacyl)-γ-butyrolactone of melting point 76°-80° C.

reactant | 3,3-dimethyl-4-pentenoic acid methyl ester | 0.5 mol, 71 g | COC(CC(C=C)(C)C)=O | C8H14O2
reactant | p-chlorobenzoyl chloride | 0.5 mol, 87.5 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | tin tetrachloride | 0.5 mol, 130.3 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,3-dimethyl-4-(4'-chloro-phenacyl)-γ-butyrolactone | CC1(CC(=O)OC1CC(=O)C1=CC=C(C=C1)Cl)C | C14H15ClO3
